US09227970B2
d) 1-Methyl-5-(2-pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid
Using 1-Methyl-5-(2-pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid ethyl ester, this compound was prepared following the same method as for the synthesis of 1-Methyl-5-(2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid. White solid (430 mg, 93%). MS: m/z=356 (M+H+).

reactant | 1-Methyl-5-(2-pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN(C1C(NC=1C=CC=2N(C1)N=C(N2)N2CCCC2)=O)C | C18H21N7O3
reactant | 1-Methyl-5-(2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | CN1N=CC(=C1C(NC=1C=CC=2N(C1)N=C(N2)N2CCOCC2)=O)C(=O)O | C16H17N7O4
product | 1-Methyl-5-(2-pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl)-1H-pyrazole-4-carboxylic acid | CN1N=CC(=C1C(NC=1C=CC=2N(C1)N=C(N2)N2CCCC2)=O)C(=O)O | C16H17N7O3
